US07569578B2
1-(6-Bromopyridin-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethanone
To an oven-dried flask under nitrogen was charged with cesium carbonate (1.98 g, 6.09 mmol, 1.3 equiv, dried at 150° C. under high vacuum for 16 h) followed by diphenyl (6-bromopyridin-2-yl)(phenylamino)methylphosphonate (2.32 g, 4.68 mmol) and 7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-5-carbaldehyde (1.36 g, 4.68 mmol). Anhydrous tetrahydrofuran (9.6 mL) was introduced followed by anhydrous isopropanol (2.4 mL) via syringe under nitrogen. The yellow suspension was stirred at room temperature under nitrogen overnight (16.5 h). To the resulting suspension was added 1N hydrochloric acid (16 mL) and the resulting red solution was stirred at room temperature for 2 h until LCMS showed complete hydrolysis to the desired product. The reaction mixture was neutralized with 1N sodium hydroxide (12 mL) and then extracted with ethyl acetate (3×). The combined organic layers was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography to afford the desired product as a yellow oil (2.013 g, 93.6%). MS (ESI) [M+H]+=461. HPLC tR=2.09 min.

reactant | cesium carbonate | 6.09 mmol, 1.98 g, 1.3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diphenyl (6-bromopyridin-2-yl)(phenylamino)methylphosphonate | 4.68 mmol, 2.32 g | BrC1=CC=CC(=N1)C(NC1=CC=CC=C1)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C24H20BrN2O3P
reactant | 7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-5-carbaldehyde | 4.68 mmol, 1.36 g | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C=O | C15H22N2O2Si
reactant | hydrochloric acid | 1N, 16 mL | Cl | ClH
solvent | isopropanol | 2.4 mL | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 9.6 mL | O1CCCC1 | C4H8O
product | 1-(6-Bromopyridin-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethanone | BrC1=CC=CC(=N1)C(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)=O | C21H26BrN3O2Si
